US05455273
o) trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-fluorobenzyl)cyclohexylamine
from 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone and 4-fluorobenzylamine. Colourless oil. Rf value: 0.43 (alumina, petroleum ether/ethyl acetate=5:1, v:v).

reactant | 4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexanone | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)C1CCC(CC1)=O)CNC | C19H27NO3
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-(4-fluorobenzyl)cyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC1=CC=C(C=C1)F)CNC | C26H35FN2O2
